US04052511
1-(2-Ethoxycarbonylpropanoyl)-L-proline (2 g.) is dissolved in 10% methanolic ammonia and the mixture stored at room temperature in a pressure flask. When thin layer chromatographic analysis indicates that all the starting material has been converted to the amide, the mixture is concentrated to dryness, and the residual ammonium salt is converted to the free acid with ion exchange resin (Dowex 50 hydrogen form) to obtain 1-(2-carbamoylpropanoyl)-L-proline, yield 1.1 g.

reactant | 1-(2-Ethoxycarbonylpropanoyl)-L-proline | 2 g | C(C)OC(=O)C(C(=O)N1[C@H](C(=O)O)CCC1)C | C11H17NO5
reactant | ammonia | N | H3N
product | 1-(2-carbamoylpropanoyl)-L-proline | C(N)(=O)C(C(=O)N1[C@H](C(=O)O)CCC1)C | C9H14N2O4
